US04780472
(1) Synthesis of 6-fluoro-2-methyl-4-chromanone
11.2 G (0.1 mol) of para-fluorophenol and 17.2 g (0.2 mol) of crotonic acid were dissolved in 100 ml of polyphosphoric acid, and the solution was reacted with vigorously stirring at 120° C. for 8 hours. After cooling, the reaction solution was poured into 450 ml of iced 2N-sodium hydroxide solution, and the mixture was extracted with 500 ml of chloroform. The chloroform layer was washed with 2N-sodium hydroxide solution and with water, followed by drying over magnesium sulfate. The solvent was distilled off, and the residue was recrystallized from n-hexane in the amount of about ten times. There were thus obtained 5.8 g (yield : 32%) of the subject material, 6-fluoro-2-methyl-4- chromanone.

reactant | para-fluorophenol | 0.1 mol | FC1=CC=C(C=C1)O | C6H5FO
reactant | crotonic acid | 0.2 mol, 17.2 g | C(\C=C\C)(=O)O | C4H6O2
reactant | sodium hydroxide | [OH-].[Na+]
product | 6-fluoro-2-methyl-4-chromanone | FC=1C=C2C(CC(OC2=CC1)C)=O | C10H9FO2
